Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: Per ED note: Mr. ___ is an ___
yo male with hx of aortic insufficiency, unprovoked DVT in ___
s/p Lovenox who presents with dyspnea on exertion. This is
associated with decreased exercise tolerance. Patient was able 
to
walk 1 mile in the past, now gets short of breath after walking
100 feet. Patient had onset of shortness of breath for the past 
2
to 3 weeks, associated with cough. Denies chest pain, fever,
abdominal pain or lower extremity edema. No new medications. He
reports no recent travel, surgery, leg swelling, hemoptysis,
known active malignancy or smoking.

In the ED: 
- patient given Hydrochlorothiazide 25 mg PO/NG    
- enalapril maleate 20 mg PO/NG BID    
- aspirin 81 mg PO/NG DAILY 

Initial VS:
- Temp 98, BP 156/90, HR 96, RR 16, SpO2 97%

Exam: 
Cardiac: Tachycardic, regular rhythm, no chest tenderness 
Pulmonary: Clear to auscultation bilaterally with good aeration,
no crackles/wheezes Abdominal/
GI: Normal bowel sounds, no tenderness or masses Renal: No CVA
tenderness
MSK: No deformities or signs of trauma, no focal deficits noted.
No lower extremity edema bilaterally 
Neuro: Sensation intact upper and lower extremities, strength 
___
upper and lower, no focal deficits noted, moving all extremities

EKG: Sinus tachycardia, normal intervals, normal axis, no
STE/STD.  

Labs notable for: 
- proBNP 208
- Trop -T 0.02 --> <0.01
- D-Dimer 751 - age-adjusted normal
- Chem 7 notable only for Cr 1.4 (appears to be patient's
baseline over past couple years) and BUN 51
- CBC within normal limits
- ___: 11.8  PTT: 28.2  INR: 1.1 

Studies notable for:
- CXR - unremarkable 

Consults: none

Vitals on transfer:  
97.4 PO  BP 170/87 L Sitting  HR 115  20  SpO2 95%  RA  

On the floor, patient endorsed a similar story, claiming he gets
short of breath after shoveling in the yard. Typically, it lasts
___ minutes, and then goes away on its own without any 
additional
symptoms. Never occurs at rest. Denies any chest pain, cough,
weight changes, syncope, pre-syncope or medication changes.
Denies fever or chills or sick contacts. Does not take record 
his
blood pressure at home. Denies any dietary changes.

 
Past Medical History:
- Aortic stenosis
- Hypertension   
- Benign prostatic hypertrophy
- hyperplastic colon polyps
- gout
- hearing loss s/p cochlear implant
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death. Otherwise noncontributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
VS: 97.4F  BP 170/87 L Sitting  HR 115  20  95%  RA  
 
GENERAL: Obese, well nourished male in NAD. Oriented x3. Mood,
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP unelevated.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, soft S2 with systolic
murmur. No rubs or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Diminished 
breath
sounds bilaterally. Respiration is unlabored with no accessory
muscle use. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: Facial telangiectasias. No significant skin lesions or
rashes.  
PULSES: Distal pulses palpable and symmetric.  
========================================
DISCHARGE PHYSICAL EXAM
===============================
24 HR Data (last updated ___ @ 608)
    Temp: 97.5 (Tm 98.7), BP: 130/73 (117-151/68-83), HR: 88
(72-100), RR: 18 (___), O2 sat: 97% (93-97), O2 delivery: Ra,
Wt: 223.1 lb/101.2 kg  
 
GENERAL: Obese, well nourished male in NAD. Oriented x3. Mood,
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.  

NECK: JVP unelevated.  
CARDIAC: Regular rate and rhythm. Normal S1, soft S2 with
systolic murmur at RUSB. 
LUNGS: CTAB 
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: Facial telangiectasias. No significant skin lesions or
rashes.  
PULSES: Distal pulses palpable and symmetric. 

 
Pertinent Results:
ADMISSION LABS
==================
___ 03:10PM   cTropnT-<0.01
___ 12:15PM   GLUCOSE-114* UREA N-51* CREAT-1.4* SODIUM-140 
POTASSIUM-4.9 CHLORIDE-106 TOTAL CO2-23 ANION GAP-11
___ 12:15PM   estGFR-Using this
___ 12:15PM   CK(CPK)-104
___ 12:15PM   cTropnT-0.02*
___ 12:15PM   CK-MB-6 proBNP-208
___ 12:15PM   WBC-6.7 RBC-5.06 HGB-15.5 HCT-47.3 MCV-94 
MCH-30.6 MCHC-32.8 RDW-14.3 RDWSD-48.9*
___ 12:15PM   NEUTS-69.9 LYMPHS-14.2* MONOS-13.6* EOS-0.7* 
BASOS-1.2* IM ___ AbsNeut-4.66 AbsLymp-0.95* AbsMono-0.91* 
AbsEos-0.05 AbsBaso-0.08
___ 12:15PM   ___ PTT-28.2 ___
___ 12:15PM   PLT COUNT-189
___ 12:15PM   D-DIMER-751*
=======================
DISCHARGE LABS
======================
White Blood Cells6.44.0 - 10.0K/uLW
Red Blood Cells4.774.6 - 6.1m/uLW
Hemoglobin14.613.7 - 17.5g/dLW
Hematocrit45.640 - 51%W
MCV9682 - 98fLW
MCH30.626 - 32pgW
MCHC32.032 - 37g/dLW
RDW14.410.5 - 15.5%W
RDW-SD49.9*35.1 - 46.3fLW
BASIC COAGULATION ___, PTT, PLT, INR)
Platelet Count171150 - 400K/uLW

___ 06:41
RENAL & GLUCOSE
Glucose102*70 - 100mg/dLW
 If fasting, 70-100 normal, >125 provisional diabetes
Urea Nitrogen38*6 - 20mg/dLW
Creatinine1.3*0.5 - 1.2mg/dLW
Sodium___ - 147mEq/LW
Potassium4.33.5 - 5.4mEq/LW
___ - 108mEq/LW
Bicarbonate2422 - 32mEq/LW
Anion Gap1310 - 18mEq/LW
CHEMISTRY
Calcium, Total9.08.4 - 10.3mg/dLW
Phosphate3.22.7 - 4.5mg/dLW
=====================
PERTINENT IMAGING
=================
___ Stress MIBI
IMPRESSION:  There is no focal perfusion defect seen.  No wall 
motion
abnormalities identified.  Ejection fraction is 49% with stress.

___ TTE
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. The estimated right atrial pressure is ___
mmHg. There is mild symmetric left ventricular hypertrophy with 
a normal cavity size. There is normal
regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection
fraction is 71 % (normal 54-73%). There is no resting left 
ventricular outflow tract gradient. No
ventricular septal defect is seen. Normal right ventricular 
cavity size with normal free wall motion. The aortic
sinus is mildly dilated with mildly dilated ascending aorta. The 
aortic arch is mildly dilated with a normal
descending aorta diameter. The aortic valve leaflets (3) are 
moderately thickened. There is moderate aortic
valve stenosis (valve area 1.0-1.5 cm2). There is a centrally 
directed jet of trace aortic regurgitation. The
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal.
There is mild [1+] tricuspid regurgitation. There is mild 
pulmonary artery systolic hypertension. There is no
pericardial effusion.
IMPRESSION: Moderate trileaflet calcific aortic stenosis. Mild 
symmetric left ventricular
hypertrophy with normal cavity size, and regional/global 
biventricular systolic function. Mild
tricuspid regurgitation. Mild pulmonary artery systolic 
hypertension.
Compared with the prior TTE ___, the severity of aortic 
stenosis has progressed/worsened.
 
Brief Hospital Course:
====================
PATIENT SUMMARY:
====================
Mr. ___ is an ___ yo male with hx of aortic stenosis,
unprovoked DVT in ___ s/p Lovenox who presents with dyspnea on
exertion likely related to progression of his aortic stenosis. 
He was worked up with a TTE that showed EF 71%. Compared with 
the prior TTE ___, the severity of aortic stenosis has 
progressed/worsened. He also had a perfusion MIBI test on ___ 
that showed no anginal type symptoms or ischemic EKG changes and 
baseline 
systolic hypertension. During his stay his blood pressure was 
well controlled on home losartan. On day of discharge blood 
pressures were 110-130s systolic. He is feeling well without any 
chest pain or shortness of breath. 

====================
ACUTE ISSUES:
====================
#Dyspnea on exertion, likely ___ progressive AS: He presented 
with worsening DOE for the past few weeks. Reportedly normally 
walks about 1 mile each day, however recently feels more 
fatigued after half a mile. He has not had any chest pain, 
diaphoresis, or anginal symptoms. He appeared euvolemic on 
presentation to ___ and denies any swelling in his lower 
extremities. He had a Well's score of 3 with negative D-dimer 
adjusted for age, so PE was deemed less likely. Given his 
extensive (albeit remote) smoking history, underlying 
obstructive lung disease could be exacerbating his dyspnea 
further. Given TTE finding in ___ of mild aortic stenosis, it 
was thought this might be due to progression of valve dz. He had 
a TTE on ___, which showed moderate trileaflet calcific 
aortic stenosis, mild symmetric LVH with normal cavity size, and 
regional/global biventricular systolic function as well as mild 
TR. The severity of aortic stenosis had progressed/worsened from 
___. He had a perfusion MIBI on ___ to assess response to 
exercise in setting of worsening AS and to assess for ischemia. 
He tolerated the MIBI well with no anginal type symptoms or 
ischemic EKG changes and with appropriate HR and BP response. He 
is going to be discharged with plan for f/u at ___ with 
cards NP and will see his cardiologist Dr. ___ further 
outpatient f/u.

#Hypertension: He was hypertensive to SBP 170 on presentation, 
however blood pressures improved while inpatient on home 
losartan. His home enalapril was discontinued since he is 
already on an ___.
====================
CHRONIC ISSUES:
====================
#Benign prostatic hypertrophy: s/p prostatic biopsies revealing 
high grade intraepithelial neoplasia. finasteride was held while 
inpatient.

#Hyperplastic colon polyps: previously found on colonoscopy. f/u 
with GI as outpatient as needed

#Gout: continued home allopurinol 

#Hearing loss; s/p cochlear implant
====================
TRANSITIONAL ISSUES:
====================
[ ] Moderate Aortic stenosis: Further management of now moderate 
aortic stenosis to be discussed with outpatient cardiologist
[ ] Will need f/u with GI as outpatient for h/o hyperplastic 
polyps.
[ ] Will need assessment of urinary sx and consider resuming 
finasteride as an outpatient.
[ ] Enapril was discontinued due to being concurrently on 
losartan 
- New Meds: none
- Stopped/Held Meds: enalapril
- Post-Discharge Follow-up Labs Needed: none
- Incidental Findings: none
- Discharge weight: 101kg (223 lbs)
- Discharge creatinine: 1.3

# CODE: Full Code
# CONTACT: ___ (daughter) ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Enalapril Maleate 20 mg PO BID 
4. Allopurinol ___ mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Losartan Potassium 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Moderate Aortic Stenosis

Secondary Diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
shortness of breath and fatigue with exertion

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had an ultrasound of your heart that showed your heart 
pump is normal. However, it also showed that your aortic valve, 
which is one of the valves in your heart, is moderately stiff 
and narrow. It is more stiff and narrow than it was in ___, 
however it is still not severe.
- You had a perfusion stress test to assess the blood flow to 
your heart. This test was normal and did not show that there was 
a lack of blood in any parts of your heart.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  

We wish you the best!
Your ___ Care Team 

 
Followup Instructions:
___